US08293735B2
2-Chloro-6-(5,6-dihydro-8H-imidazo[1,2-a]pyrazin-7-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one using 5,6,7,8tetrahydro-imidazo[1,2-a]pyrazine in place of 3,3-dimethyl-piperazin-2-one. The title compound was obtained as a pale brown solid (50 mg, 52%).

reactant | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C(C(NCC2)=O)(C)C)N2CCOCC2 | C17H22ClN5O2S
reactant | 5,6,7,8tetrahydro-imidazo[1,2-a]pyrazine | N=1C=CN2C1CNCC2 | C6H9N3
product | 2-Chloro-6-(5,6-dihydro-8H-imidazo[1,2-a]pyrazin-7-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC=1N(CC2)C=CN1)N1CCOCC1 | C17H19ClN6OS
